US03970664
10 ml. of anhydrous hydrazine was added to a solution of 10 g. of 7-chloro-2-(N-nitrosomethylamino)-5-phenyl-3H-1,4-benzodiazepine 4-oxide in 100 ml. of tetrahydrofuran and 50 ml. of methanol. After sitting at room temperature for 1 hour, the reaction mixture was evaporated under reduced pressure. The crystalline residue was partitioned between methylene chloride and water. The methylene chloride solution was dried and evaporated. Crystallization from methylene chloride/ether yielded 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine 4-oxide with a melting point of 290°-292° dec.

reactant | hydrazine | NN | H4N2
reactant | 7-chloro-2-(N-nitrosomethylamino)-5-phenyl-3H-1,4-benzodiazepine 4-oxide | ClC=1C=CC2=C(C(=[N+](CC(=N2)NCN=O)[O-])C2=CC=CC=C2)C1 | C16H13ClN4O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine 4-oxide | ClC=1C=CC2=C(C(=[N+](CC(=N2)NN)[O-])C2=CC=CC=C2)C1 | C15H13ClN4O
